US06794395B1
3-(Z)-(1-{4-[2-(4-carboxy-piperidin-1-yl)-ethyl]-anilino}-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone
0.4 g of 3-(Z)-(1-{4-[2-(4-ethoxycarbonyl-piperidin-1-yl)-ethyl]-anilino}-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone are dissolved in 8.0 ml of ethanol and 2.0 ml of 1N sodium hydroxide solution are added. The mixture is stirred for 1 hour at 50° C. 2.0 ml of 1N HCl are added to the clear solution and the precipitate formed is suction filtered. The precipitate is washed with water and ethanol and dried in vacuo at 100° C.

reactant | 3-(Z)-(1-{4-[2-(4-ethoxycarbonyl-piperidin-1-yl)-ethyl]-anilino}-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone | 0.4 g | C(C)OC(=O)C1CCN(CC1)CCC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=C(C=C23)OC)OC)=O)C=C1 | C33H37N3O5
reactant | sodium hydroxide | 1N, 2.0 ml | [OH-].[Na+]
reactant | HCl | 1N, 2.0 ml | Cl | ClH
solvent | ethanol | 8.0 ml | C(C)O | C2H6O
product | 3-(Z)-(1-{4-[2-(4-carboxy-piperidin-1-yl)-ethyl]-anilino}-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone | C(=O)(O)C1CCN(CC1)CCC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=C(C=C23)OC)OC)=O)C=C1 | C31H33N3O5
